US04563310
Following the method of Example 3 or Example 13, methyl P-n-propyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate and 6N HCl are reacted to give P-n-propyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid.

reactant | methyl P-n-propyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | C(CC)P(OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C17H16ClF3NO5P
reactant | HCl | 6N | Cl | ClH
product | P-n-propyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid | C(CC)P(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C16H14ClF3NO5P
